US09302991B2
<Step-2>: 6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(oxazol-2-ylamino)pyrimidine-4-carboxamide (Example-456, single enantiomer)
The title compound is prepared from 2-chloro-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (25 mg, 0.06 mmol, Step-1, single enantiomer) and oxazol-2-amine (16 mg, 0.19 mmol) according to the procedure similar to that described in Step-4 of Example 445.

reactant | 2-chloro-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 0.06 mmol, 25 mg | ClC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)C | C16H16ClF3N4O2
reactant | oxazol-2-amine | 0.19 mmol, 16 mg | O1C(=NC=C1)N | C3H4N2O
product | 6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-2-(oxazol-2-ylamino)pyrimidine-4-carboxamide | CC1=CC(=NC(=N1)NC=1OC=CN1)C(=O)NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F | C19H19F3N6O3
